US04666913
Step 1: 6-(2-Bromopropionyl)-3,4-dihydro-2(1H)-quinazolinone
2-Bromopropionyl bromide (10.6 g) is added dropwise to a stirring mixture of 3,4-dihydro-2(1H)-quinazolinone (3.2 g) and anhydrous aluminum chloride (7.9 g) in carbon disulfide (60 ml). The reaction mixture is refluxed for four hours, the carbon disulfide decanted and the residue treated with aqueous hydrochloric acid (6N). The acidic residue is poured into ice water, and the precipitate filtered, washed with water and dried, affording the desired product as a solid, which is used in the next step without further purification.

reactant | 2-Bromopropionyl bromide | 10.6 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | 3,4-dihydro-2(1H)-quinazolinone | 3.2 g | N1C(NCC2=CC=CC=C12)=O | C8H8N2O
reactant | aluminum chloride | 7.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 60 ml | C(=S)=S | CS2
product | 6-(2-Bromopropionyl)-3,4-dihydro-2(1H)-quinazolinone | BrC(C(=O)C=1C=C2CNC(NC2=CC1)=O)C | C11H11BrN2O2
